Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Exertional dyspnea and lightheadedness
 
Major Surgical or Invasive Procedure:
s/p dual chamber ___ HIS pacemaker implantation

 
History of Present Illness:
 ___ year old man with pmh HTN, HLD, and BPH who  
 developed exertional dyspnea and lightheadedness while playing  

 golf this past ___, which has persisted with activities 
such  
 as going up stairs and walking quickly. He has not had any  
 syncope or symptoms at rest. He was seen by his ___ covering 
MD  
 on ___. Lab workup reportedly normal (including ___ and  
 thyroid panel) and had stress test planned for next ___.  
 Yesterday, he noted home HR to be low ___ and spoke again with  

 PCP who referred him to ___. Found to be bradycardic 
 
 with 2nd degree heart block HR of ___ and sent to ___. EKG  
 shows 2:1 block which worsens to 3:1 block after exercise,  
 consistent with His-Purkinje disease. He was transferred to 
___ for evaluation for a pacemaker

 
Past Medical History:
 Hypertension, Dyslipidemia, Benign Prostatic Hypertrophy,  
 Glaucoma  

 
Social History:
___
Family History:
FAMILY HISTORY: Parents died d/t "old age" Mom ___ & dad ___.  

 Sister and 1 son/1 daughter - all A&W  

 
Physical Exam:
ON ADMISSION
EKG: ___ at OSH, SB ___ deg type 2 HB, HR 36, RBBB (pr  
 150, qrs 159, qtc 410)  
 ___ here 2:57am (s/p exercise): SB ___ deg HB, HR 39, RBBB.  
 Tele: ___ deg AVB, HR 36  
 VS: 98.1F, 37, 149/76, 17, 97% on RA  
 Physical Exam:  
 Gen: ___, NAD, middle aged man  
 Neuro: A&Ox3, CN II-XII grossly intact, no focal deficits  
 HEENT: Teeth in good repair. MMM.  
 Neck/JVP: no JVD or LAD. No carotid bruits  
 CV: Regular R&R but bradycardic (___), no MGR  
 Chest: Clear bilaterally  
 ABD: soft, NT, ND, normoactive bowel sounds  
 Extr: no edema  
 Access sites: 2+ bilat pulses: ___  
 Skin: clean/dry, intact, no rashes 
ON DISCHARGE:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
VS:98.0 134/84 80 98% RA
Tele: NSR with V pacing
Gen: ___ yr old man in NAD. Denies CP, SOB, dizziness or 
palpitations at rest or with ambulation
Lungs: CTAB, no wheezing or crackles
Heart: S1S2 regualr, no MRG
Abd: soft, non-tender, BS +
PV: Radial and pedal pulses: 2+ b/l. No edema. Extremities are 
warm and well perfused. 
Neuro: Alert and oriented x 3. No focal deficits or asymmetries 
noted. 
 
Pertinent Results:
ON ADMISSION:
___ 02:20AM BLOOD TSH-3.5
___ 02:20AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.2
___ 02:20AM BLOOD cTropnT-<0.01
___ 09:10AM BLOOD cTropnT-<0.01
___ 02:20AM BLOOD Glucose-107* UreaN-16 Creat-1.1 Na-144 
K-3.4 Cl-106 HCO3-25 AnGap-16
___ 02:20AM BLOOD ___ PTT-27.8 ___
___ 02:20AM BLOOD Neuts-59.5 ___ Monos-7.1 Eos-1.9 
Baso-0.9 Im ___ AbsNeut-4.77 AbsLymp-2.44 AbsMono-0.57 
AbsEos-0.15 AbsBaso-0.07
___ 02:20AM BLOOD WBC-8.0 RBC-4.49* Hgb-13.9 Hct-40.6 
MCV-90 MCH-31.0 MCHC-34.2 RDW-12.3 RDWSD-40.5 Plt ___

ON DISCHARGE
___ 08:15AM BLOOD Hct-44.0
___ 08:15AM BLOOD Glucose-133* UreaN-15 Creat-1.2 Na-139 
K-3.5 Cl-99 HCO3-24 AnGap-20
___ 08:15AM BLOOD Calcium-9.0 Phos-2.8 Mg-2.1
 
Brief Hospital Course:
Mr. ___  is a this is a very active ___ year old male with a 
relatively benign PMH who developed exertional symptoms and was 
found to be in second degree heart block to 3:1 block with 
activity and bradycardic in the ___. He is transferred for 
insertion of ___  
 
 # Bradycardia (3:1 HB)
 - Dual chamber HIS pacemaker implanted without complications
 -was monitored on telemetry overnight post-PPM with no events
 -Post procedure CXR on ___ showed good lead placement 
  - ___ AB negative per PCP, ___ test drawn here at ___ 
pending, echo shows no vegetation and CXR unremarkable  
  - Follow up in Device Clinic in 1 week  

 #. Hypertension: controlled
-continued on home regimen of Triamterene- HCTZ

 #. Disp
-Pt was discharged home in stable condition after overnight 
observation

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
2. Timolol Maleate 0.5% 1 DROP RIGHT EYE BID 
3. Pravastatin 80 mg PO QPM 
4. Potassium Chloride 20 mEq PO QPM 
5. Aspirin EC 81 mg PO DAILY 
6. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q8H Duration: 2 Days 
to finish course started in the hospital  
2.  Aspirin EC 81 mg PO DAILY  
3.  Potassium Chloride 20 mEq PO QPM  
4.  Pravastatin 80 mg PO QPM  
5.  Tamsulosin 0.4 mg PO QHS  
6.  Timolol Maleate 0.5% 1 DROP RIGHT EYE BID  
7.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Second degree HB consistent w His-Perkinje Disease s/p dual 
chamber HIS PPM
Hypertension
Hyperlipidemia
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
VS:98.0 134/84 80 98% RA
Tele: NSR with V pacing
Gen: ___ yr old man in NAD. Denies CP, SOB, dizziness or 
palpitations at rest or with ambulation
Lungs: CTAB, no wheezing or crackles
Heart: S1S2 regualr, no MRG
Abd: soft, non-tender, BS +
PV: Radial and pedal pulses: 2+ b/l. No edema. Extremities are 
warm and well perfused. 
Neuro: Alert and oriented x 3. No focal deficits or asymmetries 
noted. 
A/P: ___ yr old man with a PMH of hypertension, hyperlipidemia 
and BPH now s/p dual chamber HIS pacemaker for 2nd degree HB 
consistent with His- Perkinje disease

#. S/p Pacemaker implant
-abx for a total of 3 days
-follow up in Device Clinic in one week
-___ titer pending at ___. Titer for OSH was negative
#. Hypertension
-cont home medications
#.  Hyperlipidemia
-cont home medications
#.Disp
-DC home

 
Discharge Instructions:
You were admitted to ___ and had a pacemaker placed for your 
low heart rate and abnormal rhythm. Restrictions and care of 
your pacemaker site will be included in your discharge 
instructions. You will continue on your current medications with 
the following changes:
1. Keflex ___ every eight hours for 5 more doses to decrease 
the risk of infection at the pacemaker site.
 
Followup Instructions:
___